US06787535B2
A solution of 1-(3-benzenesulfonylmethyl-2-nitro-phenyl)-4-methyl-piperazine (25 g) in tetrahydrofuran (500 mL) prepared by heating to 45° C. was added to a pre-hydrogenated suspension of Pearlman's catalyst (20% Pd(OH)2/C; 0.5 g) in tetrahydrofuran (20 mL). Stirring is continued under a hydrogen atmosphere at 45° C. until the reaction is complete (ca. 29 hours). After cooling, the catalyst is filtered off on Solkafloc™ (10 g) and washed with tetrahydrofuran (50 mL). The filtrate is concentrated under vacuum to give 24.9 g of 2-benzenesulfonylmethyl-6-(4-methyl-piperazin-1-yl)-phenylamine as a foam.

reactant | 1-(3-benzenesulfonylmethyl-2-nitro-phenyl)-4-methyl-piperazine | 25 g | C1(=CC=CC=C1)S(=O)(=O)CC=1C(=C(C=CC1)N1CCN(CC1)C)[N+](=O)[O-] | C18H21N3O4S
solvent | tetrahydrofuran | 500 mL | O1CCCC1 | C4H8O
catalyst | Pearlman's catalyst | 0.5 g | [OH-].[OH-].[Pd+2]
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | 2-benzenesulfonylmethyl-6-(4-methyl-piperazin-1-yl)-phenylamine | 24.9 g | C1(=CC=CC=C1)S(=O)(=O)CC1=C(C(=CC=C1)N1CCN(CC1)C)N | C18H23N3O2S
